US07045544B2
5-[(3,3-Dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid
119 mg (0.31 mmol) of ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylate from Example LVIII are dissolved in each case in 2 ml of methanol and THF, and 0.31 ml (0.63 mmol) of a 2 M lithium hydroxide solution is added. The mixture is heated at 90° C. for one hour. After cooling, the mixture is, for work-up, diluted and extracted with aqueous hydrochloric acid and ethyl acetate. The organic phase is dried with sodium sulphate, filtered and dried under reduced pressure.

reactant | ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylate | 0.31 mmol, 119 mg | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC)(C)C | C23H26N2O3
reactant | lithium hydroxide | 2 M | [OH-].[Li+]
solvent | methanol | 2 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 5-[(3,3-Dimethylbutanoyl)amino]-1-phenyl-1H-indole-2-carboxylic acid | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)O)(C)C | C21H22N2O3
